US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (117 mg, 0.322 mmol) and triethylamine (134 μL, 0.966 mmol) in tetrahydrofuran (5 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (38.0 μL, 0.419 mmol), and the mixture was stirred at room temperature for 12 hr. Cyclopropanecarbonyl chloride (29.3 μL, 0.322 mmol) was further added and the mixture was stirred for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, sodium carbonate (100 mg), methanol (2 mL) and water (100 μL) were added to the residue, and the mixture was stirred at 50° C. for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, ethyl acetate) and recrystallized from ethyl acetate to give the title compound (112 mg, 60%) as a white solid.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.322 mmol, 117 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)=N1 | C18H17N7O2
reactant | triethylamine | 0.966 mmol, 134 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.419 mmol, 38.0 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Cyclopropanecarbonyl chloride | 0.322 mmol, 29.3 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 112 mg, 60% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)=N1 | C22H21N7O3
